US08193228B2
2-(4-{2-[4-(2,2-dimethylbutyl)-1H-imidazol-2-yl]-1-methoxyethyl}phenyl)-5-fluoropyridine
Hydrochloric acid (2N, 4 mL) was added to a solution of 2-(4-{2-[4-(2,2-dimethylbutyl)-1-trityl-1H-imidazol-2-yl]-1-methoxyethyl}phenyl)-5-fluoropyridine in methanol (4 mL) at ambient temperature. The solution was stirred at 70° C. for 2 hr. Concentration of the solution afforded the title compound as a white solid. 1H NMR (500 MHz, CD3OD) δ 8.66-8.60 (m, 1H), 8.05-7.83 (m, 5H), 7.45-7.37 (m, 2H), 7.16 (s, 1H), 4.72-4.68 (m, 1H), 3.28 (s, 3H), 2.51 (s, 2H), 1.28-1.20 (m, 2H), 0.86 (t, J=7.0 Hz, 3H), 0.83 (s, 6H).

reactant | Hydrochloric acid | 2N, 4 mL | Cl | ClH
reactant | 2-(4-{2-[4-(2,2-dimethylbutyl)-1-trityl-1H-imidazol-2-yl]-1-methoxyethyl}phenyl)-5-fluoropyridine | CC(CC=1N=C(N(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CC(OC)C1=CC=C(C=C1)C1=NC=C(C=C1)F)(CC)C | C42H42FN3O
solvent | methanol | 4 mL | CO | CH4O
product | 2-(4-{2-[4-(2,2-dimethylbutyl)-1H-imidazol-2-yl]-1-methoxyethyl}phenyl)-5-fluoropyridine | CC(CC=1N=C(NC1)CC(OC)C1=CC=C(C=C1)C1=NC=C(C=C1)F)(CC)C | C23H28FN3O
